2154-03-30 07:36:00 Physician Resident Progress Note
Chief Complaint: fevers, tachycardia
   24 Hour Events:
 BLOOD CULTURED - At [**2154-3-29**] 03:49 PM
 PICC LINE - START [**2154-3-29**] 04:07 PM
   Bolused 2.5 L NS, IVFs (LR) overnight @ 150 cc
   Restarted flagyl / cipro
   S:
   Feeling much better.
   Decreased abdominal pain.
   No N/V or diarrhea.
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Adhesive Tape (Topical)
   Unknown;
   Lisinopril (Oral)
   Cough;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2154-3-29**] 09:25 PM
   Metronidazole - [**2154-3-29**] 11:59 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-3-29**] 04:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-30**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.9
C (98.5
   HR: 101 (95 - 130) bpm
   BP: 121/69(82) {107/56(68) - 146/98(111)} mmHg
   RR: 15 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 67 Inch
             Total In:
                                                                  4,604 mL
                                                                  1,700 mL
   PO:
             TF:
   IVF:
                                                                  4,604 mL
                                                                  1,700 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    160 mL
   Urine:
                                                                    220 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,384 mL
                                                                  1,540 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, No(t)
   Distended, Tender: tender, limited rebound, no guarding.
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, No(t) Sedated, No(t) Paralyzed, Tone:
   Not assessed
   Labs / Radiology
   524 K/uL
   8.1 g/dL
   88 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   25.1 %
   11.9 K/uL
        [image002.jpg]
                             [**2154-3-29**]  03:15 PM
                             [**2154-3-30**]  04:40 AM
   WBC
   11.9
   Hct
   29.7
   25.1
   Plt
   524
   Cr
   0.6
   Glucose
   88
   Other labs: Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR post op
   FINDINGS:  In the interim, the degree of the bilateral pneumoperitoneum
   has
   significantly decreased with residual pneumoperitoneum seen underneath
   the
   right hemidiaphragm.  Left lower lobe atelectasis and to a lesser
   degree right
   lower lobe atelectasis are again seen with low lung volume.  The heart
   size is
   mildly enlarged.  The right PICC line is again noted terminating in the
   SVC/caval junction.  There are no new lines placed and no associated
   complications like pneumothorax.  Feeding tube has been placed with
   distal tip
   in the stomach.  The degree of the left subcutaneous emphysema has
   decreased.
   IMPRESSION:
   1.  No pneumothorax is noted.
   2.  Significant decrease of the abdominal pneumoperitoneum.
   3.  Bibasilar atelectasis.
   4.  New feeding tube with tip in the stomach.
   MICRO
   [1][**2154-3-29**]
   SWAB
   GRAM STAIN-FINAL; FLUID CULTURE-PENDING
   INPATIENT
   [2][**2154-3-29**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2154-3-29**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [4][**2154-3-29**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2154-3-23**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   [6][**2154-3-23**]
   BLOOD CULTURE
   Blood Culture, Routine-FINAL
   INPATIENT
   Assessment and Plan
   62 y/o F now [**Doctor Last Name **] d4 for sigmoid colectomy, POD 1 for ex lap for concern
   for free air under diaphragm.
   # s/p EX [**Name (NI) 1874**]
   Unclear [**Name2 (NI) **] to free air and fevers.
   ? micro perforation.
   Improving w/ volume resuscitation and antibiotics w/ respect to
   tachycardia.  However, still w/ limited urine output.  Foley flushed
   and no blockage.  Prob continues to be vol depleted.
   Cont follow serial abdominal exams.
   - monitor urine output, bolus LR prn
   - f/u pathology results
   - pain control via dilaudid PCA
   If UOP improves can call out to surgery in PM.
   .
   # ID
   WBC trending back toward normal.
   Will cont cipro / flagyl, total ? 14 day course.
   Cont f/u
   - f/u blood and urine cxs
   .
   # HTN
   PO meds on hold w/ NPO, post op.
   Cont metoprolol IV q6h.
   .
   # diabetes: Insulin sliding scale
   .
   # FEN:
   nutrition NPO for now.
   LR @ 150 cc / hr + boluses.
   # Code: Full
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:  none
   Lines:
   PICC Line - [**2154-3-29**] 04:07 PM
   Prophylaxis:
   DVT: sub q heparin
   Stress ulcer: pantoprazole
   VAP:  n/a
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition: possibly call out to surgery if urine output improves
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);

2154-03-30 09:30:00 Physician Attending Progress Note
Chief Complaint: s/p sigmoid colectomy ([**3-25**])  for mass. Then
   complicated by free air - back to OR [**3-29**]
   HPI:
   24 hour events : 2.5 L NS, UOP improved as did tachycardia, Dilaudid
   PCA for pain
   Restarted on Cipro /Flagyl
   24 Hour Events:
 BLOOD CULTURED - At [**2154-3-29**] 03:49 PM
 PICC LINE - START [**2154-3-29**] 04:07 PM
   History obtained from Patient, Family / [**Hospital 56**] Medical records
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Adhesive Tape (Topical)
   Unknown;
   Lisinopril (Oral)
   Cough;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2154-3-29**] 09:25 PM
   Metronidazole - [**2154-3-30**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-3-30**] 08:00 AM
   Other medications:
   SSRI, Dilaudid PCA, fluticasone, PPI, SQ hep TID, metoprolol,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Flowsheet Data as of  [**2154-3-30**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 36.5
C (97.7
   HR: 99 (95 - 130) bpm
   BP: 110/68(78) {107/56(68) - 146/98(111)} mmHg
   RR: 17 (15 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  4,604 mL
                                                                  2,587 mL
   PO:
             TF:
   IVF:
                                                                  4,604 mL
                                                                  2,587 mL
   Blood products:
   Total out:
                                                                    220 mL
                                                                    180 mL
   Urine:
                                                                    220 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,384 mL
                                                                  2,407 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   Cardiovascular: (S1: Normal, Absent)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Tender: to palp diffusely with rebound, LUQ SQ emphysema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.1 g/dL
   524 K/uL
   88 mg/dL
   0.6 mg/dL
   27 mEq/L
   4.1 mEq/L
   10 mg/dL
   104 mEq/L
   138 mEq/L
   25.1 %
   11.9 K/uL
        [image002.jpg]
                             [**2154-3-29**]  03:15 PM
                             [**2154-3-30**]  04:40 AM
   WBC
   11.9
   Hct
   29.7
   25.1
   Plt
   524
   Cr
   0.6
   Glucose
   88
   Other labs: Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Microbiology: Lap gram stain :no organisms
   Blood cx [**3-23**] neg and [**3-29**] pending
   Assessment and Plan
   62 y/o woman POD #5/#1 s/p sigmoid colectomy / ex lap was admitted
   [**2154-3-23**] for a several month history of abdominal pain, now admitted to
   ICU follow ex lap for increased pneumoperitoneum with fever, but
   without any evidence of perforation.
   A/B
    - done well post ext
    - has risk for hypoxemic events given known complex sleep disordered
   breathing.  However, per prior notes her sleep apnea is mostly central
   and may get worse with autoset therapy.  Follow expectantly.
   CVS
     - hemodynamically stable.  Tachycardia improved with hydration. Still
   borderline UOP- getting another blous now.
     - Continue metoprol for peri-op beta blockade and HTN control
     - monitor for any decompenation
   Neuro
    - PCA for pain control
   Endo
     - sliding scale insulin for diabetes
   FEN
     - NPO for now
     - discuss when tube feeds can start with surgery
   GI
    - s/p ex lap without identification of site of perforation
   Heme
    - mild anemia without evidence of ongoing bleeding but HCT down this
   AM in setting of sig hydration
    - follow
   ID
    - UA negative
    - ex lap without identification of peritoneal soilage or perforation
   site
    - will discuss with primary team regarding antibiotics in the setting
   of bioprosthetic valves, vs. following expectantly
   Renal
     - no acute issues, but UOP has been trending down this AM- bolus now
   and monitor
   Line
   -          PICC, Foley, NG
   ICU Care
   Nutrition: NPO for now
   Glycemic Control:
   PICC Line - [**2154-3-29**] 04:07 PM
   Prophylaxis:
   DVT: SQ hep
   Stress ulcer: PPI
   VAP: NA
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition : possibel call out later this afternoon will discuss with
   surgery
   Total time spent:

2154-03-31 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - gave several  boluses of LR with no improvement in UO
   - hespan 500cc IV bolus (colloid volume expander) per surgery
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Adhesive Tape (Topical)
   Unknown;
   Lisinopril (Oral)
   Cough;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2154-3-30**] 10:24 PM
   Metronidazole - [**2154-3-31**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2154-3-31**] 12:00 AM
   Pantoprazole (Protonix) - [**2154-3-31**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-31**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 91 (83 - 103) bpm
   BP: 123/88(94) {97/61(71) - 123/88(94)} mmHg
   RR: 16 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  6,940 mL
                                                                  1,233 mL
   PO:
             TF:
   IVF:
                                                                  6,440 mL
                                                                  1,233 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    451 mL
                                                                    175 mL
   Urine:
                                                                    451 mL
                                                                    175 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,489 mL
                                                                  1,058 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed), all pulses palpable
   Respiratory / Chest: clear to auscultation
   Abdominal: Soft, Bowel sounds present, incision c/d/i
   Extremities: no edema
   Labs / Radiology
   447 K/uL
   6.5 g/dL
   75 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   12 mg/dL
   108 mEq/L
   141 mEq/L
   20.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2154-3-29**]  03:15 PM
                             [**2154-3-30**]  04:40 AM
                             [**2154-3-30**]  04:00 PM
                             [**2154-3-31**]  04:59 AM
   WBC
   11.9
   9.5
   Hct
   29.7
   25.1
   22.0
   20.3
   Plt
   524
   447
   Cr
   0.6
   0.5
   Glucose
   88
   75
   Other labs: Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Microbiology: UA: trace leuks, positive nitrites, 7 WBCs, <1 epi, mod
   blood
   Assessment and Plan
   62 y/o F now [**Doctor Last Name **] d4 for sigmoid colectomy, POD 1 for ex lap for concern
   for free air under diaphragm.
   s/p EX [**Name (NI) 1874**]
   Unclear [**Name2 (NI) **] to free air and fevers.
   ? micro perforation.
   Improving w/ volume resuscitation and antibiotics w/ respect to
   tachycardia.  However, still w/ limited urine output.  Foley flushed
   and no blockage.  Prob continues to be vol depleted.
   Cont follow serial abdominal exams.
   - monitor urine output, bolus LR prn
   - f/u pathology results
   - pain control via dilaudid PCA
   If UOP improves can call out to surgery in PM.
   ID
   WBC trending back toward normal.
   Will cont cipro / flagyl, total ? 14 day course.
   Cont f/u
   - f/u blood and urine cxs
   HTN
   PO meds on hold w/ NPO, post op.
   Cont metoprolol IV q6h.
   diabetes: Insulin sliding scale
   FEN:
   nutrition NPO for now.
   LR @ 150 cc / hr + boluses.
   Code: Full
   ICU Care
   Nutrition: regular
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2154-3-29**] 04:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:  not indicated
   VAP:   not indicated
   Code status: full
   Disposition:call out to surgery floor today

2154-03-31 09:16:00 Physician Attending Progress Note
Chief Complaint: s/p ex lap
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Poor urine output
   FeNA less than 1%
   500 cc Hespan overnight and then Lasix - per surgery, then
   Allergies:
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Rash;
   Adhesive Tape (Topical)
   Unknown;
   Lisinopril (Oral)
   Cough;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2154-3-30**] 10:24 PM
   Metronidazole - [**2154-3-31**] 08:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-3-31**] 06:07 AM
   Heparin Sodium (Prophylaxis) - [**2154-3-31**] 08:00 AM
   Other medications:
   SSRI
   Dilaudid PCA
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-3-31**] 09:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98
   HR: 86 (83 - 101) bpm
   BP: 127/73(85) {97/61(71) - 127/106(110)} mmHg
   RR: 12 (11 - 20) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  6,940 mL
                                                                  1,668 mL
   PO:
             TF:
   IVF:
                                                                  6,440 mL
                                                                  1,668 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    451 mL
                                                                    235 mL
   Urine:
                                                                    451 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,489 mL
                                                                  1,433 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///27/
   Physical Examination
   Gen: alert lying in bed, states feeling much better
   Chest: [**Month (only) 38**] BS bilat no wheezes
   Cardiovascular: reg but tachy [**2-6**] SM LLSB)
   Abdominal: Tender: to palp diffusely with rebound, LUQ SQ emphysema
   Neurologic: A and O x3 and follows commands
   Labs / Radiology
   6.5 g/dL
   447 K/uL
   75 mg/dL
   0.5 mg/dL
   27 mEq/L
   3.7 mEq/L
   12 mg/dL
   108 mEq/L
   141 mEq/L
   20.3 %
   9.5 K/uL
         [image002.jpg]
                             [**2154-3-29**]  03:15 PM
                             [**2154-3-30**]  04:40 AM
                             [**2154-3-30**]  04:00 PM
                             [**2154-3-31**]  04:59 AM
   WBC
   11.9
   9.5
   Hct
   29.7
   25.1
   22.0
   20.3
   Plt
   524
   447
   Cr
   0.6
   0.5
   Glucose
   88
   75
   Other labs: Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: Urine Lytes
   trace leuk, pos nitites,
   Assessment and Plan
   62 y/o woman POD #6/#2 s/p sigmoid colectomy / ex lap was admitted
   [**2154-3-23**] for a several month history of abdominal pain, now admitted to
   ICU follow ex lap for increased pneumoperitoneum with fever, but
   without any evidence of perforation.
   A/B
    - done well post ext
    - has risk for hypoxemic events given known complex sleep disordered
   breathing.  However, per prior notes her sleep apnea is mostly central
   and may get worse with autoset therapy.  Follow expectantly.
   CVS
     - hemodynamically stable.  Tachycardia improved with hydration.
     - Continue metoprol for peri-op beta blockade and HTN control
     - monitor for any decompenation
   Neuro
    - PCA for pain control
   Endo
     - sliding scale insulin for diabetes
   FEN
     - NPO for now
     - discuss when tube feeds can start with surgery
   GI
    - s/p ex lap without identification of site of perforation
   Heme
    - mild anemia without evidence of ongoing bleeding but HCT down this
   AM in setting of sig hydration
    - follow
   ID
   - ex lap without identification of peritoneal soilage or perforation
   site
    - will discuss with primary team regarding antibiotics in the setting
   of bioprosthetic valves, vs. following expectantly
   Renal
     - no acute issues, but UOP has been trending down yesterday- FEna
   less than 1 % consistent with dehydration and Cr down with fluids
   Surgery gave Lasix this AM- She is likely close to euvolemic and they
   will manage her volume status expectantly on the floor.
   Line
   -          PICC, Foley, NG
   ICU Care
   Nutrition: per surgery possible clears
   Glycemic Control:
   Lines:
   PICC Line - [**2154-3-29**] 04:07 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: na
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : to floor
   Total time spent: 35